US07038047B2
Preparation of diethyl (4,6-difluoro-2-methoxyphenyl)-malonate
Diethyl malonate (0.49 mol) was added to a mixture of sodium hydride (0.51 mol) and 1,4-dioxane (140 ml) at 60° C. within 2 hours. The mixture was stirred for 10 minutes at 60° C. and copper (I) bromide (0.05 mol) was added. After 15 minutes, a mixture of 2-methoxy-4,6-difluorobromobenzene (0.25 mol) and 1,4-dioxane (10 ml) was added. The reaction mixture was stirred at about 100° C. for about 15 hours. After cooling to about 15 to 20° C. 35 ml of 12N hydrochloric acid were added. The precipitate was filtered off. The filtrate was extracted with diethyl ether. The organic phase was separated, dried and filtered. The filtrate was evaporated to yield 44 g of the title compound.

reactant | Diethyl malonate | 0.49 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.51 mol | [H-].[Na+]
reactant | 2-methoxy-4,6-difluorobromobenzene | 0.25 mol | COC1=C(C(=CC(=C1)F)F)Br | C7H5BrF2O
reactant | hydrochloric acid | 12N, 35 ml | Cl | ClH
catalyst | copper (I) bromide | 0.05 mol | [Cu]Br
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
product | diethyl (4,6-difluoro-2-methoxyphenyl)-malonate | 44 g | FC1=CC(=C(C(=C1)F)C(C(=O)OCC)C(=O)OCC)OC | C14H16F2O5
